data/mechanism_extracts/OrgChemFront/10.1039_d5qo00289c.json
{"doi": "10.1039_d5qo00289c", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical anti-Markovnikov hydration of aryl-substituted alkenes to primary/secondary alcohols using chloride as a redox mediator and water as the hydrogen/oxygen source", "mechanism_family": ["mediator_anodic", "radical_polar_crossover", "cation_initiated"], "electrochemical_role": "Anodic oxidation of chloride (from TBAC) to Cl2/Cl+, which acts as a mediator that converts the aryl alkene to a chloriranium/chlorohydrin; cathodic reduction of a benzylic radical/cation occurs in the epoxide ring-opening sequence", "key_intermediates": [{"name": "chloriranium ion (intermediate I) from aryl alkene + Cl+", "smiles": null, "role": "transient"}, {"name": "chlorohydrin 5 (Ph-aryl-CH(OH)-CH2Cl)", "smiles": "OC(c1ccc(-c2ccccc2)cc1)CCl", "role": "reactive"}, {"name": "styrene oxide 6 (aryl epoxide)", "smiles": "C1OC1c1ccc(-c2ccccc2)cc1", "role": "reactive"}, {"name": "benzylic radical (intermediate II) from epoxide ring-opening / SET", "smiles": null, "role": "reactive"}, {"name": "benzylic carbanion (intermediate III) after second cathodic SET", "smiles": null, "role": "transient"}, {"name": "anti-Markovnikov alcohol 2a (product)", "smiles": "OCCc1ccc(-c2ccccc2)cc1", "role": "reactive"}], "electron_flow": "Chloride is anodically oxidized to Cl2/Cl+, which adds to the aryl alkene to form a chloriranium that is opened by H2O to chlorohydrin 5; base (K3PO4) closes 5 to epoxide 6, which is then reduced at the cathode in two sequential SET steps via a benzylic radical and carbanion that is protonated by water to deliver the anti-Markovnikov alcohol.", "rate_determining_step": "Cathodic reductive ring-opening of the aryl epoxide to the benzylic radical/carbanion (slow conversion of 6 to 2a observed by kinetics)", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 2a fully suppressed (89% 1a recovered); with epoxide 6 + TEMPO, the TEMPO–benzylic radical adduct was detected by HRMS, confirming a benzylic radical intermediate"}, {"name": "Chlorohydrin 5 (as substrate)", "smiles": "OC(c1ccc(-c2ccccc2)cc1)CCl", "purpose": "intermediate_trap", "observation": "Subjected to standard conditions, gave 2a in 66%, confirming 5 as an on-cycle intermediate"}, {"name": "Epoxide 6 (as substrate)", "smiles": "C1OC1c1ccc(-c2ccccc2)cc1", "purpose": "intermediate_trap", "observation": "Subjected to standard conditions, gave 2a in 82%, confirming 6 as an on-cycle intermediate"}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "D-2a obtained in 60% with 96% d-incorporation at the β-position, showing water is the H source"}, {"name": "4-phenyl-1-butene (alkyl-tethered alkene)", "smiles": "C=CCCc1ccccc1", "purpose": "other", "observation": "No anti-Markovnikov hydration product 4i; epoxide 4i' isolated in 46%, indicating phenyl conjugation is required for the epoxide ring-opening/reduction step"}, {"name": "Cyclic voltammetry (Cl- vs 1a)", "smiles": null, "purpose": "redox_probe", "observation": "Cl- oxidation onset 2.02 V vs SCE, below 1a first oxidation at 2.95 V; without Cl-, no 2a formed — confirming Cl- mediator role"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "stoichiometric_intermediate", "cyclic_voltammetry", "kinetic_order", "isolation_of_intermediate", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "The mechanism is a chloride-mediated paired-electrolysis-like sequence: anodic generation of Cl+/Cl2 to form chlorohydrin/epoxide, followed by cathodic two-electron reductive ring-opening of the aryl epoxide. Kinetics show 6 builds up early then decays into 2a, supporting 6 as the productive intermediate. Phenyl conjugation is essential to stabilize the benzylic radical/anion formed on cathodic ring-opening."}
